US07560558B2
4-n-Butylphenol (1.00 g) was dissolved in dichloromethane (10 ml) to prepare a solution. Pyridine (783 mg) and acetyl chloride (675 mg) were added to the solution, and the mixture was stirred at room temperature overnight. The solvent was removed by distillation under the reduced pressure. Water was then added to the residue, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with water and was dried over anhydrous magnesium sulfate. The solvent was removed by distillation under the reduced pressure. The residue was purified by column chromatography using chloroform to give 4-n-butylphenyl acetate (1.03 g, yield 80%).

reactant | 4-n-Butylphenol | 1.00 g | CCCCC=1C=CC(=CC1)O | C10H14O
reactant | Pyridine | 783 mg | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 675 mg | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-n-butylphenyl acetate | 1.03 g, yield 80% | CCCCC=1C=CC(=CC1)OC(=O)C | C12H16O2
